US08609660B2
Lithium aluminium hydride (1 M in THF; 22 mL, 22 mmol) was added dropwise to a stirred solution of rac-2-amino-2-(3-bromo-phenyl)-propionic acid methyl ester (7.5 g, 29.1 mmol) in THF (200 mL) at −15° C. The mixture was left warming up slowly to 0° C. during 1 hour. Then more THF (150 mL) was added and sat. Na2SO4 was added dropwise until no more hydrogen was formed. Then anhydrous Na2SO4 was added and left stirring overnight at room temperature. The mixture was filtered over diatomaceous earth, rinsed with THF and the solvent evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; 7 M solution of ammonia in methanol in DCM 0/100 to 3/97). The desired fractions were collected and concentrated in vacuo to yield rac-2-amino-2-(3-bromo-phenyl)-propan-1-ol (5.70 g, 85% yield) as an oil.

reactant | Lithium aluminium hydride | 22 mmol, 1 M, 22 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-2-amino-2-(3-bromo-phenyl)-propionic acid methyl ester | 29.1 mmol, 7.5 g | COC(C(C)(C1=CC(=CC=C1)Br)N)=O | C10H12BrNO2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | rac-2-amino-2-(3-bromo-phenyl)-propan-1-ol | 5.70 g, 85% yield | NC(CO)(C)C1=CC(=CC=C1)Br | C9H12BrNO
